US07915270B2
2-(2-(7-Phenylheptanoyl)oxazol-5-yl)isonicotinic acid
The title compound was prepared from methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)isonicotinate (12 mg, 0.025 mmol) following General Procedure E. Preparative thin layer chromatography (2% AcOH/EtOAc) yielded the title compound as a white solid (2 mg, 17%): 1H NMR (CDCl3, 600 MHz) 8.85 (d, 1H, J=4.2 Hz), 8.42 (s, 1H), 7.93-7.90 (m, 2H), 7.26-7.30 (m, 2H), 7.17-7.16 (m, 3H), 3.12 (t, 2H, J=7.5 Hz), 2.61 (t, 2H, J=7.6 Hz), 1.79 (quint, 2H, J=7.4 Hz), 1.65 (quint, 2H, J=7.5 Hz), 1.44-1.40 (m, 4H); MALDI-FTMS m/z 377.1523 (M−H−, C22H21N2O4, requires 377.1507).

reactant | methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)isonicotinate | 0.025 mmol, 12 mg | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CN1 | C23H24N2O4
solvent | AcOH EtOAc | CC(=O)O.CCOC(=O)C
product | 2-(2-(7-Phenylheptanoyl)oxazol-5-yl)isonicotinic acid | 2 mg, 17% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)O)C=CN1 | C22H22N2O4
